US07601850B2
C. 2-{[5-(1-{4-[2-(tert-Butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophen-2-ylmethyl]-amino}-acetic acid methyl ester
Using a procedure analogous to Example 41, 5-(1-{4-[2-(tert-Butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophene-2-carbaldehyde (additional example Lu-13-A) (2.11 g, 4.09 mm) and glycine methyl ester hydrochloride (0.56 g, 4.50 mmol) give the title compound (1.54 g, 2.61 mmol, 64%). %). 1H NMR (CDCl3), δ 0.06 (s, 3H), 0.12 (s, 3H), 0.70 (t, J=6.9 Hz, 6H), 0.91(s, 9H), 0.97 (s, 9H), 2.02-2.10 (m, 4H), 2.13 (s, 3H), 2.20 (s, 3H), 3.45 (s, 2H), 3.67 (dd, J=5.4, 3.4 Hz, 1H), 3.73 (s, 3H), 3.82-3.87 (m, 3H), 3.98 (dd, J=9.6, 3.4 Hz, 1H), 6.49 (s, 1H), 6.67 (d, J=8.3 Hz, 1H), 7.00-7.05 (m, 2H). LC/MS (m/z): calcd for C33H55NO4SSi (M)+: 589.9; found: 589.0.

reactant | 5-(1-{4-[2-(tert-Butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophene-2-carbaldehyde | 2.11 g | C(C)(C)(C)[Si](OC(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(S1)C=O)C)C)C(C)(C)C)(C)C | C30H48O3SSi
reactant | glycine methyl ester hydrochloride | 4.50 mmol, 0.56 g | Cl.COC(CN)=O
product | 2-{[5-(1-{4-[2-(tert-Butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophen-2-ylmethyl]-amino}-acetic acid methyl ester | 2.61 mmol, 1.54 g, 64% | COC(CNCC=1SC(=CC1C)C(CC)(CC)C1=CC(=C(C=C1)OCC(C(C)(C)C)O[Si](C)(C)C(C)(C)C)C)=O | C33H55NO4SSi
